US06855716B2
Synthesis of benzyl 4-(3-chlorophenyl)-3-(3,3-diphenylpropylcarbamoyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate
10 ml of acetonitrile was added to a mixture of 200 mg (0.373 mmol) of 5-benzyl 1-(4-nitrophenyl) 6-(3-chlorophenyl)-2-methoxy-4-methyl-6H-pyrimidine-1,5-dicarboxylate and 78.9 mg (0.373 mmol) of 3,3-diphenylpropylamine, and they were stirred at 60° C. for 30 minutes. The solvent was evaporated under reduced pressure to obtain the title compound.

reactant | 5-benzyl 1-(4-nitrophenyl) 6-(3-chlorophenyl)-2-methoxy-4-methyl-6H-pyrimidine-1,5-dicarboxylate | 0.373 mmol, 200 mg | ClC=1C=C(C=CC1)C1C(=C(N=C(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C)C(=O)OCC1=CC=CC=C1 | C27H22ClN3O7
reactant | 3,3-diphenylpropylamine | 0.373 mmol, 78.9 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | benzyl 4-(3-chlorophenyl)-3-(3,3-diphenylpropylcarbamoyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | ClC=1C=C(C=CC1)C1N(C(NC(=C1C(=O)OCC1=CC=CC=C1)C)=O)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H32ClN3O4
